US06800619B2
[3S/R, (2S)]-5-Fluoro-4-oxo-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid diethyl amide
To a stirred mixture of [3S/R, (2S)]-5-fluoro-4-oxo-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid (200 mg, 0.4 mmol), prepared as in Example 1, in anhydrous DCM (4 ml), was added carbodiimide (74 mg, 0.44 mmol) and a diethylamine (0.62 ml, 6 mmol). The mixture was stirred at room temperature for 16 h then concentrated under reduced pressure. The residue was purified by flash chromatography (2.5% Methanol in dichloromethane) to afford the title compound as a white solid (25.3 mg, 11%): 1H NMR (400 MHz, CDCl3) δ 1.00-1.23 (6H, m), 1.45-1.67 (6H, m), 2.18 (1H, m), 2.74 (1H, m), 2.92 (1H, m), 3.21-3.33 (4H,m), 3.65 (1H, m), 4.68 (1H, m), 4.85 (1H, m), 4.98-5.36 (2H, m) and 7.12-7.95 (8H, m). 19F NMR (376 MHz, CDCl3) δ −232.37 and −232.72.

reactant | 5-fluoro-4-oxo-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid | 0.4 mmol, 200 mg | FCC(C(CC(=O)O)NC(=O)C1N(CCCC1)C(=O)N1C2=CC=CC=C2SC=2C=CC=CC12)=O | C24H24FN3O5S
reactant | carbodiimide | 0.44 mmol, 74 mg | N=C=N | CH2N2
reactant | diethylamine | 6 mmol, 0.62 ml | C(C)NCC | C4H11N
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-4-oxo-3-{[1-(phenothiazine-10-carbonyl)piperidine-2-carbonyl]amino}-pentanoic acid diethyl amide | 25.3 mg, 11% | C(C)N(C(CC(C(CF)=O)NC(=O)C1N(CCCC1)C(=O)N1C2=CC=CC=C2SC=2C=CC=CC12)=O)CC | C28H33FN4O4S
